US07745477B2
c) Preparation of 2-chloro-6-trifluoromethyl-isonicotinic acid
To a stirred solution of 1.1 g of 2-chloro-4-iodo-6-trifluoromethyl-pyridine (3.58 mmol) in 15 ml THF under argon at −75° C., were added 2.2 ml of n-BuLi (1.6 M in hexane) within 15 min (temperature kept between −72° C. and −75° C.). After 5 additional min stirring at −75° C., the reaction mixture was poured on an excess of freshly crushed dry ice and stirred until RT was reached. The reaction mixture was then concentrated in vacuo, the remaining residue treated with 2M aqueous HCl and the resulting mixture was extrated with diethylether. The combined organic phases were washed with water, and then extracted with saturated NaHCO3 solution. The aqueous phase was then acidified with concentrated HCl, extracted twice with diethylether and the combined organic phases were washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The remaining residue was recrystalized from 12 ml hot n-hexane, leading to 0.459 g (56%) of 2-chloro-6-trifluoromethyl-isonicotinic acid as an off-white solid. MS: 224.0 (M−H)−.

reactant | 2-chloro-4-iodo-6-trifluoromethyl-pyridine | 3.58 mmol, 1.1 g | ClC1=NC(=CC(=C1)I)C(F)(F)F | C6H2ClF3IN
reactant | n-BuLi | 1.6 M, 2.2 ml | [Li]CCCC
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-chloro-6-trifluoromethyl-isonicotinic acid | ClC=1C=C(C(=O)O)C=C(N1)C(F)(F)F | C7H3ClF3NO2
